US06727264B1
3-(4-PIPERIDINYL)ANILINE:
A solution of 4 M HCl in dioxane (25 mL) was added to tert-butyl 4-[3-(amino)phenyl]-1-piperidinecarboxylate (2.60 g, 9.00 mmol) in dichloromethane (250 mL). The reaction mixture was stirred at room temperature overnight, concentrated in vacuo, and the residue was dissolved in water (50 mL). The mixture was nuetralized using KOH pellets and extracted with methylene chloride (3×50 mL). The combined organic extracts were dried (MgSO4), concentrated and chromatographed to give the desired product (1.03 g). 1H NMR (400 MHz, CDCl3) δ 7.01 (t, 1H, J=7.6 Hz), 6.62-6.54 (m, 3H), 3.16 (br d, 2H, J=10.3 Hz), 2.75 (dt, 2H, J=2.7, 12.3 Hz), 2.56 (tt, 1H, J=3.6, 12.3 Hz), 1.81 (br d, 2H, J=12.3 Hz), 1.65 (dq, 2H, J=4.0, 12.3 Hz); ESMS m/e: 177.2 (M+H)+.

reactant | HCl | 4 M | Cl | ClH
reactant | tert-butyl 4-[3-(amino)phenyl]-1-piperidinecarboxylate | 9.00 mmol, 2.60 g | NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 3-(4-PIPERIDINYL)ANILINE | 1.03 g | N1CCC(CC1)C=1C=C(N)C=CC1 | C11H16N2
